US06169107A
A suspension of 0.11 g (2.93 mmol) of lithium aluminum hydride in 20 ml of tetrahydrofuran was cooled to 0° C. A solution of 0.75 g (2.93 mol) of methyl 4-benzyloxy-2-methylbenzoate in 20 ml of tetrahydrofuran was added dropwise to the suspension at DOC. After stirring at 0° C. for 2 hours, the reaction mixture was treated in a conventional manner to give 0.66 g of 4-benzyloxy-2-methylbenzyl alcohol.

reactant | lithium aluminum hydride | 2.93 mmol, 0.11 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-benzyloxy-2-methylbenzoate | 2.93 mol, 0.75 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)C | C16H16O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-benzyloxy-2-methylbenzyl alcohol | 0.66 g | C(C1=CC=CC=C1)OC1=CC(=C(CO)C=C1)C | C15H16O2
